Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
Dysuria, flank pain
 
Major Surgical or Invasive Procedure:
ureteral stent removal ___

 
History of Present Illness:
CC: ___

HPI:
This is a ___ with a history of DVT/PE on rivaroxaban, narcotics
contract for chronic pain, multiple abdominal surgeries 
including
gastric bypass, nephrolithiasis hospitalized ___ for pan
sensitive e coli UTI, POD 4 for left retrograde pyelogram, left
ureteroscopy laser lithotripsy, left ureteral stent placement
with post op pain, presenting with dysuria and fever.

The history is obtained from ___ and the ED, the patient is too
somnolent to contribute meaningfully. The patient has a
left-sided ureteral stone with above admission for pan sensitive
E coli UTI 3 weeks ago, now POD 4 for lithotripsy and stent
placement on ___ (full op note unavailable in ___) who 
developed
increasing left sided flank pain, dysuria and fevers. Patient
states she had been having left-sided flank pain that
precipitated diagnosis of renal stone and has had much worsening
of her left-sided pain after the stent was placed. 2 days ago 
she
developed nausea/vomiting and has not been able to tolerate p.o.
she is also developed fever 101.2 starting today. She contacted
her urology team yesterday who called her in a prescription for
Macrobid which she has been taking without relief.

Her urine culture at the time of the procedure is growing ESBL e
coli.

In the ED:
T 101.2  98  102/52  18 98% RA 
UA >180 WBC
WBC 6.2 
Cr 1.0
Lactate wnl 
Renal ultrasound without evidence of abscess.
She was given 1L NS, zosyn, does not appear to have received
narcotics, and admitted.

ROS: Per hpi, otherwise rest of 10pt review negative
 
Past Medical History:
PMH:
R knee menisectomy ___
DVT/PE
DMII- resolved with weight loss after gastric bypass
Asthma-resolved with weight loss after gastric bypass 
CVA ___ with residual left facial droop
Myelopathy NOS
Obesity s/p gastric bypass
Severe gastritis/esophagitis w/odynophagia
Recurrent esophageal candidiasis,
Multiple abdominal surgeries for "stomach leak"
s/p CCY
h/o SBO
Hernia
PUD
GERD
macrocytic anemia
h/o MRSA
osteoarthritis
narcotic abuse
arthroplasty 
HTN
Hepatitis C- cleared 
nephrolithiasis 
thyromegaly

 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF

 
Physical Exam:
PHYSICAL EXAM:
98.1 BP 91/59 67 12 96%RA 
GEN: Sleeping in bed, rouses to voice briefly, doesn't answer
more than yes-no questions
HEENT: Pinpoint pupils, moist membranes
HEART: RRR, no murmurs
LUNGS: CTA bilaterally, soft respirations
ABD: Soft, nontender, nondistended
GU: No folkey
EXT: Warm,no edema, 2+ dp pulses

 
Pertinent Results:
MICRO:

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    ~300 CFU/mL.  PRESUMPTIVE
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in
MCG/ML
                     
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING:
Renal ultrasound ___ PRELIM READ
IMPRESSION: 
1. No hydronephrosis or evidence of perinephric fluid 
collection.

2. Hypoechoic material in the dependent portion of the bladder
may represent debris or blood clot in the setting of recent
instrumentation. 

 
Brief Hospital Course:
___ with chronic DVT/PE on rivaroxaban, narcotics contract for 
chronic pain, multiple abdominal surgeries including gastric 
bypass, nephrolithiasis hospitalized ___ for pan sensitive e 
coli UTI, POD 4 for left retrograde pyelogram, left ureteroscopy 
laser lithotripsy, left ureteral stent placement with post op 
pain, presenting with sepsis and urinary tract pain.

ACUTE ISSUES
# Sepsis from urinary source - ESBL (+)
# Nephrolithiasis s/p recent lithotripsy and ureteral stent
# Acute pain (dysuria)
# Opiate use disorder

CHRONIC ISSUES
# Chronic VTE
# s/p gastric bypass
# Chronic depression
# Chronic anxiety

She was placed on Zosyn IV wihtout further fever.  She was seen 
by urology who deferred stent removal until ___.  Patient 
complained of pain, and received a 1 or 2 doses of extra 
narcotics with resultant somnoence without hypoxemia.  Concern 
for non-malicious painseeking with risk for sedation voiced by 
HMED team to PCP ___.  HMED spoke with pt's HCP who has similar 
concerns at times with patien'ts home mis-managment of meds.  
HCP states while feeding pt's cat this week, she found staches 
of meds "all over the house" and is concerned about patient's 
ability to self-manage her sedatives/pain meds in a safe manner 
without risking over-sedation.  Concern shared with PCP.  We 
agree to begin slo benzodiazepine taper initially and she was 
moved to CLonazepam 0.5m BID (from 1mg QM, 0.5mg ___. Narcotics 
are unchanged. She will need home eval with ___ (sister/HCP 
would like to be present when this is arranged).  PACT team saw 
patient and said she would qualify for packaged meds, and PCP 
team could consider locked box for her restricted substance 
scripts in the home (with ___.  PCP team informed.

Tizanidine was stopped.  Patient had L ureteral stent removed AM 
___ without complications.  She complained of L flank pain 
thereafter. Post procedure void did not reveal frank hematuria 
or clots.  Urology was notified and said further imaging was not 
indicated.  Patient was given Oxybutin 5mg TIDprn and her pain 
settled down such that she went to sleep.  She is being 
discharged to rehab, where expected length of stay is less than 
30 days.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Ascorbic Acid ___ mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Cholestyramine 4 gm PO DAILY 
5. ClonazePAM 1 mg PO QAM 
6. ClonazePAM 0.5 mg PO QPM 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Doxepin HCl 100 mg PO HS 
10. FoLIC Acid 1 mg PO DAILY 
11. Gabapentin 200 mg PO TID 
12. Methadone 20 mg PO TID 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Ondansetron 4 mg PO Q8H:PRN nausea 
15. Pantoprazole 40 mg PO Q12H 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. QUEtiapine Fumarate 75 mg PO QHS 
18. Ranitidine 150 mg PO DAILY 
19. Rivaroxaban 20 mg PO DAILY 
20. Senna 8.6 mg PO BID 
21. Tamsulosin 0.4 mg PO DAILY 
22. Thiamine 100 mg PO DAILY 
23. Tizanidine 2 mg PO Q8H:PRN knee spasm 
24. Ursodiol 500 mg PO BID 
25. Vitamin D 1000 UNIT PO DAILY 
26. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
27. Milk of Magnesia 30 mL PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Oxybutynin 5 mg PO TID:PRN bladder spasm  
2.  Piperacillin-Tazobactam 4.5 g IV Q8H 
RX *piperacillin-tazobactam 4.5 gram 4.5 gm IV q8hr Disp #*23 
Vial Refills:*0 
3.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  BuPROPion (Sustained Release) 150 mg PO BID  
7.  Cholestyramine 4 gm PO DAILY  
8.  ClonazePAM 1 mg PO QAM  
9.  ClonazePAM 0.5 mg PO QPM  
10.  Cyanocobalamin 100 mcg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Doxepin HCl 100 mg PO HS  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Gabapentin 200 mg PO TID  
15.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe  
16.  Methadone 20 mg PO TID  
17.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
18.  Multivitamins W/minerals 1 TAB PO DAILY  
19.  Pantoprazole 40 mg PO Q12H  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  QUEtiapine Fumarate 75 mg PO QHS  
22.  Ranitidine 150 mg PO DAILY  
23.  Rivaroxaban 20 mg PO DAILY  
24.  Senna 8.6 mg PO BID  
25.  Tamsulosin 0.4 mg PO DAILY  
26.  Thiamine 100 mg PO DAILY  
27.  Ursodiol 500 mg PO BID  
28.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sepsis from urinary source (pyelopephritis)
Chronic nephrolithiasis
Chronic pain syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after recent ureter stenting procedure with 
fever and pain.  You were started on IV antibiotics, and due to 
prior resistance pattern will need to complete a course by IV.  
A PICC line was placed and home antibiotics are arranged. You 
were restarted on your home pain regimen.  You underwent stent 
removal by urology.  Concerns were shared regarding your 
sensitivity to over-sedation with your current medical regimen 
and your home managment of your medications.  You are discharged 
to rehab.  We are initiating a slow benzodiazepine (clonazepam) 
taper in an effort to prevent over sedation with your chronic 
narcotic regiment. This will continue to be addressed by your 
PCP team, and suggestion was made for home medication evaluation 
to augment safety parameters and minimize drug interactions or 
adverse event.
 
Followup Instructions:
___